US09328118B2
tert-Butyl 3-(2-{[(4-methylphenyl)sulfonyl]oxy}ethyl)-8-azabicyclo[3.2.1]octane-8-carboxylate (150 mg) and potassium carbonate (100 mg) were added to a solution of 4-[4-hydroxy-3-(trifluoromethyl)phenyl]-7-methyl-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile (100 mg) in DMAc (2 mL) at room temperature, and the mixture was stirred at 80° C. for 1 hour. After the reaction mixture was cooled to room temperature, extraction thereof was performed using EtOAc, and the extract was washed with water and saturated brine. The organic layer was dried over MgSO4 and filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (Hex:EtOAc=80:20 to 50:50), whereby tert-butyl 3-{2-[4-(2-cyano-7-methyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-2-(trifluoromethyl)phenoxy]ethyl}-8-azabicyclo[3.2.1]octane-8-carboxylate (146 mg) was obtained as a white solid.

reactant | tert-Butyl 3-(2-{[(4-methylphenyl)sulfonyl]oxy}ethyl)-8-azabicyclo[3.2.1]octane-8-carboxylate | 150 mg | CC1=CC=C(C=C1)S(=O)(=O)OCCC1CC2CCC(C1)N2C(=O)OC(C)(C)C | C21H31NO5S
reactant | potassium carbonate | 100 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-[4-hydroxy-3-(trifluoromethyl)phenyl]-7-methyl-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile | 100 mg | OC1=C(C=C(C=C1)C=1C2=C(N=C(N1)C#N)N(C=C2)C)C(F)(F)F | C15H9F3N4O
solvent | DMAc | 2 mL | CC(=O)N(C)C | C4H9NO
product | tert-butyl 3-{2-[4-(2-cyano-7-methyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-2-(trifluoromethyl)phenoxy]ethyl}-8-azabicyclo[3.2.1]octane-8-carboxylate | 146 mg | C(#N)C=1N=C(C2=C(N1)N(C=C2)C)C2=CC(=C(OCCC1CC3CCC(C1)N3C(=O)OC(C)(C)C)C=C2)C(F)(F)F | C29H32F3N5O3
